US07645757B2
2.3. 2-(methylamino)-2-oxoethyl 4-(1H-indol-1-yl)butylcarbamate
The procedure is as described in Example 1 (stage 1.4.). Starting from 0.90 g (3.31 mmol) of 3-[4-(1H-indol-1-yl)butyl]-1,3-oxazolidine-2,4-dione, obtained in stage 2.2., and from 5 ml (9.93 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, elution being carried out with a 98/2 mixture of dichloromethane and of methanol, 0.70 g of product is obtained in the form of an amorphous white solid.

reactant | 3-[4-(1H-indol-1-yl)butyl]-1,3-oxazolidine-2,4-dione | 3.31 mmol, 0.90 g | N1(C=CC2=CC=CC=C12)CCCCN1C(OCC1=O)=O | C15H16N2O3
reactant | methylamine | 2M | CN | CH5N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(methylamino)-2-oxoethyl 4-(1H-indol-1-yl)butylcarbamate | 0.70 g | N1(C=CC2=CC=CC=C12)CCCCNC(OCC(=O)NC)=O | C16H21N3O3
